US04067720
Dipotassium N-cyano-dithioimidocarbonate and diethyl sulfate were condensed in an aqueous media and the product was reacted with hydrogen peroxide to obtain 3-hydroxy-5-ethylthio-1,2,4-thiadiazole melting at 129° C.

reactant | Dipotassium N-cyano-dithioimidocarbonate | C(#N)N=C([S-])[S-].[K+].[K+]
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | hydrogen peroxide | OO | H2O2
product | 3-hydroxy-5-ethylthio-1,2,4-thiadiazole | OC1=NSC(=N1)SCC | C4H6N2OS2
